Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Stage IIIB melanoma, right axillary adenopathy
 
Major Surgical or Invasive Procedure:
Right axillary lymphadenectomy ___ - Dr. ___

 
History of Present Illness:
I saw ___ today for her initial
postoperative visit after performing partial amputation of the
distal right index finger and right axillary sentinel lymph node
biopsy on ___.  I was to have seen ___ in one week for
suture removal, but because of ongoing discomfort in the finger
and because of my desire to discuss her pathology with her in
person, I had her come in today.  She was accompanied by her
daughter, ___.  I spoke to her in the presence of a hospital
___ interpreter.  This almost ___ woman
initially upon biopsy had a 0.53 mm, ___ level III lesion with
one mitosis and ulceration.  The base was broadly positive.  The
pathology from ___ shows a 2.7 mm invasive melanoma
extending to ___ level IV with three associated mitoses per
mm2.  I recovered two right axillary lymph nodes, one of which
contains multiple deposits of micrometastatic tumor.  Her final
staging is therefore T3b N1a or overall stage IIIB.

Since her surgery, ___ has had intermittent neuritic pain of
the index finger, which will last only a few seconds, but which
can be quite intense.  She has also had an area of hyperesthesia
in her upper inner arm closer her axillary incision.  She has
noted some swelling of the incision.

 
Past Medical History:
# HTN  
# Atypical chest tightness - nml P-MIBI in ___  
# OA  
# Hypothyroidism  
# Right TKR  
# ?restrictive lung disease (no PFTs, on albuterol)  
# Acute cholecystitis  
# Chronic pain (hands/back/knees)  
# Lumbar spondylosis and spinal canal stenosis  
# Synovitis  
# Possible SLE  
# Elevated LFT's - no hepatitis, hemochromatosis, ___ negative 
but ___ positive, diffuse fatty infiltration on US (likely NASH) 
 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Upon discharge:

AFVSS
NAD. Resting comfortably in bed
Breathing comfortably on RA
Right axillary wound c/d/i with overlying steri strips. No 
impending dehiscence, erythema or fluctuance. JP drainage  is 
serosanguinous 
RRR
Extremities are WWP
 
Pertinent Results:
Pathology pending
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for right 
axillary dissection for axillary adenoapthy with stage III 
melanoma of the hand which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. 

 
Neuro: Post-operatively, patient's pain was controlled by IV 
narcotics and was subsequently transitioned to oral analgesics 
with good effect and adequate pain control. She will be 
discharged on PO Dilaudid. 

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored. 

Hematology: The patient did not require transfusion. She 
remained hemodynamically stable during her stay. 

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored. She remained on RA. 

GI/GU: A PO diet was tolerated well. Patient was also started on 
a bowel regimen to encourage bowel movement. Intake and output 
were closely monitored.  

ID: The patient received ___ antibiotics. The 
patient's temperature was closely watched for signs of 
infection. 

Prophylaxis: The patient received subcutanous prophylactic 
heparin during this stay and was encouraged to work within the 
activity limitations as early as possible. 

 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs, tolerating a regular diet, ambulating 
with assistance, voiding without assistance, and pain was well 
controlled. The surgical incision was clean, dry, and intact 
without evidence of erythema or drainage; the right upper 
extremity was NVI distally throughout. Her JP drain remains in 
and she will be discharged with ___ services for drain care.  
The patient was given written instructions concerning 
precautions and the appropriate follow-up care.  All questions 
were answered prior to discharge and the patient expressed 
readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Hydroxychloroquine Sulfate 200 mg PO BID 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Oxybutynin 5 mg PO BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
7. Ranitidine 150 mg PO BID 
8. Valsartan 160 mg PO DAILY 
9. Acetaminophen 650 mg PO Q6H:PRN pain 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Hydroxychloroquine Sulfate 200 mg PO BID 
6. Ranitidine 150 mg PO BID 
7. Valsartan 160 mg PO DAILY 
8. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
9. Furosemide 40 mg PO DAILY 
Take as prescribed 
10. MetFORMIN (Glucophage) 500 mg PO BID 
11. Oxybutynin 5 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stage IIIB melanoma (right hand)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care: 
1. You may remove your surgical dressing after 48 hours and 
leave your  incision open to air. Your paper tape steri-strips 
over your incision should remain on until they fall off. Please 
don't peel these off. 
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water. 
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day. 
4. A written record of the daily output from your drain should 
be brought to every follow-up appointment. Your drain will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount. 
5. You may NOT shower daily while your drain is in place. No 
baths until instructed to do so by Dr. ___. No showers until 
your drain is removed. 

Activity: 
1. You may resume your regular diet. 
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___.

Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
3. Take prescription pain medications for pain not relieved by 
tylenol.
4.Take Colace, 100 mg by mouth 2 times per day, while taking the 
prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 

Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

DRAIN DISCHARGE INSTRUCTIONS 
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.
Thank you for allowing us to participate in your care.

 

 
Followup Instructions:
___